US05760032
Diethyl 2-(5-amino-4-(2-chlorobenzoyl)thiophen-2-ylmethyl)malonate (20 g) and a 4M potassium hydroxide aqueous solution (30 ml) were added to ethanol (120 ml), and the mixture was refluxed under heating for 2 hours. The solvent was evaporated, and the residue was dissolved in water. 1.2M Hydrochloric acid was added to adjust the solution to pH 3. The mixture was extracted with ethyl acetate to give a product and the product was washed with brine, and dried over magnesium sulfate. The solvent was evaporated. Dimethylformamide (30 ml) and toluene (70 ml) were added to the residue, and the mixture was heated at 80° C. for 1 hour. The mixture was washed with water, dried over magnesium sulfate and concentrated to give 11.0 g of 3-(5-amino-4-(2-chlorobenzoyl)thiophen-2-yl)propionic acid.

reactant | Diethyl 2-(5-amino-4-(2-chlorobenzoyl)thiophen-2-ylmethyl)malonate | 20 g | NC1=C(C=C(S1)CC(C(=O)OCC)C(=O)OCC)C(C1=C(C=CC=C1)Cl)=O | C19H20ClNO5S
reactant | potassium hydroxide | 4M, 30 ml | [OH-].[K+]
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 3-(5-amino-4-(2-chlorobenzoyl)thiophen-2-yl)propionic acid | 11.0 g | NC1=C(C=C(S1)CCC(=O)O)C(C1=C(C=CC=C1)Cl)=O | C14H12ClNO3S
